US07291617B2
1.74 g of methyl 3-[4-(3-{4-[{[(benzyloxy)carbonyl]amino}(imino)methyl]phenoxy}propyl)-2,3-dioxo-1-piperazinyl]propanoate was dissolved in 10 ml of N,N-dimethylformamide. Thereafter, 0.52 g of 5% palladium-carbon suspended in 7.4 ml of N,N-dimethylformamide and 0.85 ml of 6 mol/L hydrochloric acid were added to the solution, followed by stirring under a hydrogen atmosphere at room temperature under atmospheric pressure for 2 hours. After completion of the reaction, the catalyst was removed by filtration, and the residue was washed with 20 ml of N,N-dimethylformamide. The filtrate was then concentrated under a reduced pressure. 20 ml of xylene was added to the obtained residue, and the mixture was further concentrated under a reduced pressure to obtain 1.37 g of methyl 3-[4-(3-{4-[amino(imino)methyl]phenoxy}propyl)-2,3-dioxo-1-piperazinyl]propanoate hydrochloride.

reactant | methyl 3-[4-(3-{4-[{[(benzyloxy)carbonyl]amino}(imino)methyl]phenoxy}propyl)-2,3-dioxo-1-piperazinyl]propanoate | 1.74 g | C(C1=CC=CC=C1)OC(=O)NC(C1=CC=C(OCCCN2C(C(N(CC2)CCC(=O)OC)=O)=O)C=C1)=N | C26H30N4O7
reactant | hydrochloric acid | 6 mol/L, 0.85 ml | Cl | ClH
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 7.4 ml | CN(C=O)C | C3H7NO
catalyst | palladium-carbon | 0.52 g | [C].[Pd]
product | methyl 3-[4-(3-{4-[amino(imino)methyl]phenoxy}propyl)-2,3-dioxo-1-piperazinyl]propanoate hydrochloride | 1.37 g | Cl.NC(C1=CC=C(OCCCN2C(C(N(CC2)CCC(=O)OC)=O)=O)C=C1)=N | InChI=1S/C18H24N4O5.ClH/c1-26-15(23)7-9-22-11-10-21(17(24)18(22)25)8-2-12-27-14-5-3-13(4-6-14)16(19)20;/h3-6H,2,7-12H2,1H3,(H3,19,20);1H
